US09034900B2
Step 1: 1-cyclobutyl-3-methylpyridin-1-ium chloride
Cyclobutylamine (2.3 g, 32 mmol) was added to 1-(2,4-dinitrophenyl)-3-methylpyridinium chloride (J. Org. Chem. 1997, 62, 729-33) (8.0 g, 31 mmol) in n-butanol (120 mL) at 20° C. and the deep red solution was refluxed overnight. Concentration under vacuum left a residue that was treated with water (20 mL) and the precipitate was removed by filtration, and the operation was repeated twice. The combined aqueous phase was basified with concentrated ammonia (2 mL) and washed twice with EtOAc. Evaporation of the water to gave the title compound (3.2 g, 70%) as a brown oil. LCMS: 148 M+

reactant | Cyclobutylamine | 32 mmol, 2.3 g | C1(CCC1)N | C4H9N
reactant | 1-(2,4-dinitrophenyl)-3-methylpyridinium chloride | 31 mmol, 8.0 g | [Cl-].[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[N+]1=CC(=CC=C1)C
solvent | n-butanol | 120 mL | C(CCC)O | C4H10O
product | 1-cyclobutyl-3-methylpyridin-1-ium chloride | 3.2 g, 70% | [Cl-].C1(CCC1)[N+]1=CC(=CC=C1)C | InChI=1S/C10H14N.ClH/c1-9-4-3-7-11(8-9)10-5-2-6-10;/h3-4,7-8,10H,2,5-6H2,1H3;1H/q+1;/p-1
